US08404859B2
A mixture of 2-{2-[3-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-acetylamino}-4-methyl-thiazole-5-carboxylic acid ethyl ester (1.02 g, 2.347 mmol) and lithium hydroxide monohydrate (1 g, 23.83 mmol) in THF (21 mL) and water (7 mL)) was stirred at 25° C. for 16 h. The reaction was quenched by addition of aqueous 2N HCl (25 mL) followed by addition of sodium chloride. The resultant biphasic solution was extracted with 7:3 ethyl acetate/THF (3×125 mL). The organic layers were combined, washed with brine (50 mL), dried over MgSO4, filtered and concentrated under reduced pressure to give 2-[2-(3-Hydroxy-phenyl)-acetylamino]-4-methyl-thiazole-5-carboxylic acid (0.62 g, 90.4%) as a white solid. MS m/e 293.3 (M+H+).

reactant | 2-{2-[3-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-acetylamino}-4-methyl-thiazole-5-carboxylic acid ethyl ester | 2.347 mmol, 1.02 g | C(C)OC(=O)C1=C(N=C(S1)NC(CC1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C)=O)C | C21H30N2O4SSi
reactant | lithium hydroxide monohydrate | 23.83 mmol, 1 g | O.[OH-].[Li+]
solvent | THF | 21 mL | C1CCOC1 | C4H8O
solvent | water | 7 mL | O | H2O
product | 2-[2-(3-Hydroxy-phenyl)-acetylamino]-4-methyl-thiazole-5-carboxylic acid | 0.62 g, 90.4% | OC=1C=C(C=CC1)CC(=O)NC=1SC(=C(N1)C)C(=O)O | C13H12N2O4S
